US06753322B2
9-{(3aR,4R,6S,6aS)-6-[(Ethylamino)carbonyl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylic acid
To a solution of ethyl 9-{(3aR,4R,6S,6aS)-6-[(ethylamino)carbonyl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate (Preparation 69) (16.47 g, 0.0274 moles) in methanol (164 ml) was added aqueous sodium hydroxide (30.2 ml of a 1M solution, 0.0302 moles) and the resultant mixture was stirred at ambient temperature under an atmosphere of nitrogen for 1.5 hours. The reaction mixture was then concentrated in vacuo and to the residue was added dichloromethane (160 ml) and deionised water (160 ml). The pH of this mixture was adjusted to pH 4 by the addition of aqueous 2M hydrochloric acid with stirring. The organic phase was separated and the aqueous layer was extracted with dichloromethane (75 ml). The organic phases were then combined, dried over anhydrous magnesium sulphate and concentrated in vacuo to give the title compound (15.5 g) as a cream coloured foam that was used as such for the next step. If necessary, this crude product can be purified by standard means, such as flash chromatography on silica gel.

reactant | ethyl 9-{(3aR,4R,6S,6aS)-6-[(ethylamino)carbonyl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate | 0.0274 moles, 16.47 g | C(C)NC(=O)[C@H]1O[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C1=NC(=NC(=C1N=C2)NCC(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OCC | C32H36N6O6
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 164 ml | CO | CH4O
product | 9-{(3aR,4R,6S,6aS)-6-[(Ethylamino)carbonyl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}-6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylic acid | 15.5 g | C(C)NC(=O)[C@H]1O[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C1=NC(=NC(=C1N=C2)NCC(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)O | C30H32N6O6
